US07666864B2
(S,S)—N-(3-{4-[4-Dimethylamino-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-3-fluoro-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide
(S,S)—N-(3-{3-Fluoro-4-[4-methoxy-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide. The title compound was prepared by following the same procedure as described in the preparation of Example 7, except [5-bromo-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6(S)-yloxy)-pyrimidin-4-yl]-dimethyl-amine was used in place of 6-(5-bromo-pyridin-2-yloxy)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine. ESI MS m/z 557.4 (M+H+).

reactant | (S,S)—N-(3-{3-Fluoro-4-[4-methoxy-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | FC=1C=C(C=CC1C=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])OC)N2C(O[C@H](C2)CNC(C)=O)=O | C23H22FN7O8
reactant | [5-bromo-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6(S)-yloxy)-pyrimidin-4-yl]-dimethyl-amine | BrC=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])N(C)C | C12H13BrN6O4
product | (S,S)—N-(3-{4-[4-Dimethylamino-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-3-fluoro-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | CN(C1=NC(=NC=C1C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])C | C24H25FN8O7
